US07244726B2
6-{1-[2-(2-Methylquinolin-5-yloxy)ethyl]piperidin-4-ylmethyl}-1,3-dihydroindol-2-one (E14)
6-{1-[2-(Methylquinolin-5-yloxy)ethyl]piperidin-4-ylidenemethyl}-1,3-dihydroindol-2-one (150 mg; 0.36 mmol) was dissolved in a mixture of methanol (20 ml) and tetrahydrofuran (20 ml). Ammonium formate (229 mg; 3.6 mmol) was added, followed by 10% palladium on carbon (150 mg), and the resulting mixture stirred vigorously at ambient temperature for 2 h. The reaction mixture was filtered through Kieselguhr and the filtrate evaporated to dryness under reduced pressure. Chromatography on SiO2, eluting with 10% aq. ammoniacal methanol in dichloromethane (5:95), gave the title compound (150 mg; 100%) as a white foam.

reactant | 6-{1-[2-(Methylquinolin-5-yloxy)ethyl]piperidin-4-ylidenemethyl}-1,3-dihydroindol-2-one | 0.36 mmol, 150 mg | CC1=NC2=CC=CC(=C2C=C1)OCCN1CCC(CC1)=CC1=CC=C2CC(NC2=C1)=O | C26H27N3O2
reactant | Ammonium formate | 3.6 mmol, 229 mg | C(=O)[O-].[NH4+]
solvent | methanol | 20 ml | CO | CH4O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
catalyst | palladium on carbon | 150 mg | [Pd] | Pd
product | 6-{1-[2-(2-Methylquinolin-5-yloxy)ethyl]piperidin-4-ylmethyl}-1,3-dihydroindol-2-one | 150 mg, 100% | CC1=NC2=CC=CC(=C2C=C1)OCCN1CCC(CC1)CC1=CC=C2CC(NC2=C1)=O | C26H29N3O2
